US07652015B2
Add 2-fluoro-benzoyl chloride (1.74 g, 11.0 mmol) dropwise to a solution of 3-methyl-5-nitro-2-(piperidin-4-yloxy)-pyridine in dichloromethane (50 mL) and triethylamine (1.21 g, 12 mmol) and stir under N2 at room temperature for 2 hours. Wash the reaction mixture with distilled water (3×20 mL) followed by saturated aq. sodium chloride solution (1×20 mL). Dry the organic phase over sodium sulfate and concentrate to give (2-fluoro-phenyl)-[4-(3-methyl-5-nitro-pyridin-2-yloxy)-piperidin-1-yl]-methanone as a yellow solid.

reactant | 2-fluoro-benzoyl chloride | 11.0 mmol, 1.74 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | 3-methyl-5-nitro-2-(piperidin-4-yloxy)-pyridine | CC=1C(=NC=C(C1)[N+](=O)[O-])OC1CCNCC1 | C11H15N3O3
reactant | triethylamine | 12 mmol, 1.21 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (2-fluoro-phenyl)-[4-(3-methyl-5-nitro-pyridin-2-yloxy)-piperidin-1-yl]-methanone | FC1=C(C=CC=C1)C(=O)N1CCC(CC1)OC1=NC=C(C=C1C)[N+](=O)[O-] | C18H18FN3O4
